US07517873B2
To a mixture of 0.266 g (0.001 mole) of (rac)-2-chloro-9-cyclopropyl-7,8-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-46) and 0.093 mL (0.0015 mole) of iodomethane at 0 degrees was added 0.06 g (0.0015 mole) of 60% sodium hydride in oil. The mixture was stirred at ambient temperature for 1 hour, then 20 mL of water was added. The precipitate was collected by filtration to give 0.25 g of (rac)-2-chloro-9-cyclopropyl-5,7,8-trimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-46) as an yellow solid.

reactant | (rac)-2-chloro-9-cyclopropyl-7,8-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.001 mole, 0.266 g | ClC=1N=CC2=C(N(C(C(C(N2)=O)C)C)C2CC2)N1 | C12H15ClN4O
reactant | iodomethane | 0.0015 mole, 0.093 mL | IC | CH3I
reactant | sodium hydride | 0.0015 mole, 0.06 g | [H-].[Na+]
solvent | water | 20 mL | O | H2O
product | (rac)-2-chloro-9-cyclopropyl-5,7,8-trimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.25 g | ClC=1N=CC2=C(N(C(C(C(N2C)=O)C)C)C2CC2)N1 | C13H17ClN4O
